US07371743B2
(a) 4-(3-Boc-amino-propyl-amino)-3-chloro-benzonitrile
3.49 g (20 mmol) 3-Boc-amino-propylamine in 5 ml DMF are combined with 2.75 ml (25 mmol) NMM. After the addition of 3.11 g (20 mmol) 3-chloro-4-fluoro-benzonitrile the mixture is stirred for 3.5 hours at ambient temperature under a nitrogen atmosphere, heated to 105° C. for 20 minutes and extracted with ethyl acetate. The combined organic phases are washed with water and sat. sodium chloride solution, dried over magnesium sulphate and evaporated down i. vac. The residue is further reacted without any more purification.

reactant | 3-Boc-amino-propylamine | 20 mmol, 3.49 g | C(=O)(OC(C)(C)C)CCCNN | C8H18N2O2
reactant | NMM | 25 mmol, 2.75 ml | CN1CCOCC1 | C5H11NO
reactant | 3-chloro-4-fluoro-benzonitrile | 20 mmol, 3.11 g | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3-Boc-amino-propyl-amino)-3-chloro-benzonitrile | C(=O)(OC(C)(C)C)CCCN(C1=C(C=C(C#N)C=C1)Cl)N | C15H20ClN3O2
